US04810806
A mixture of 43.6 g (0.20 mol) of dimethyl tetrafluorosuccinate, 16.1 g (0.20 mol) of 2-chloroethanol, and 100 mL of DMSO was stirred and maintained at 25°-35° while 9.6 g (0.20 mol) of 50% NaH in mineral oil were added portionwise. The resulting mixture was stirred overnight, and then poured into 500 mL of cold water. Ether (300 mL) was added, and the resulting mixture was shaken. After mixture separated into layers, the ether layer was separated, washed with 100 mL of water, dried over CaSO4, filtered and distilled to give 23.1 g (44%) of 2-methoxy-2-(2-methoxycarbonyltetrafluoroethyl)-1,3-dioxolane, b.p. 72°-72.5° at 13 Pa (0.1 mm). IR (neat) and NMR (CCl4) spectra of the product were consistent with the assigned structure.

reactant | dimethyl tetrafluorosuccinate | 0.20 mol, 43.6 g | FC(C(C(=O)OC)(F)F)(C(=O)OC)F | C6H6F4O4
reactant | 2-chloroethanol | 0.20 mol, 16.1 g | ClCCO | C2H5ClO
reactant | DMSO | 100 mL | CS(=O)C | C2H6OS
reactant | NaH | 0.20 mol, 9.6 g | [H-].[Na+]
solvent | Ether | 300 mL | CCOCC | C4H10O
solvent | water | 500 mL | O | H2O
product | 2-methoxy-2-(2-methoxycarbonyltetrafluoroethyl)-1,3-dioxolane | 23.1 g, 44% | COC1(OCCO1)C(C(C(=O)OC)(F)F)(F)F | C8H10F4O5
